* Extracted Netlist
.include TSMC_180nm.txt
.param SUPPLY=1.8
.global gnd vdd

* Supply
Vdd vdd gnd 'SUPPLY'

* SPICE3 file created from CLA_Final.ext - technology: scmos

.option scale=0.09u

M1000 gnd B2 P2_Not Gnd CMOSN w=40 l=2
+  ad=4631 pd=2310 as=320 ps=96
M1001 vdd Cin a_173_n86# w_160_n92# CMOSP w=20 l=2
+  ad=6590 pd=3040 as=160 ps=56
M1002 C0_Inter_01 a_39_96# vdd w_26_129# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1003 Inter_S3 B3 A3 w_n160_n577# CMOSP w=10 l=2
+  ad=60 pd=32 as=50 ps=30
M1004 G3_Not A3 a_n147_n515# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=320 ps=96
M1005 a_88_n314# a_46_n316# gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1006 Inter_S3 B3 a_n147_n571# Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=90 ps=56
M1007 gnd P1_Not a_24_n104# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1008 a_46_n316# a_22_n384# vdd w_9_n351# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1009 C1 a_248_n65# vdd w_235_n32# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1010 C1_Inter_NAND G1_Not a_90_n34# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1011 a_7_127# Cin gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1012 C3_Inter_NOR P3_Not gnd Gnd CMOSN w=5 l=2
+  ad=40 pd=26 as=0 ps=0
M1013 gnd P0_Not C1_Inter_NOR Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=40 ps=26
M1014 B0 A0 Inter_S0 w_n162_12# CMOSP w=10 l=2
+  ad=60 pd=32 as=60 ps=32
M1015 a_24_n104# P1_Not a_24_n65# w_11_n71# CMOSP w=40 l=2
+  ad=200 pd=90 as=320 ps=96
M1016 G0_Not B0 vdd w_n162_127# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1017 Inter_S0 B0 a_n149_18# Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=90 ps=56
M1018 gnd P3_Not a_22_n384# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1019 C2_Inter_NOR P1_Not a_73_n249# w_67_n263# CMOSP w=10 l=2
+  ad=50 pd=30 as=80 ps=36
M1020 a_46_n176# a_22_n244# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1021 P1_Not A1 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1022 P2_Not B2 a_n96_n288# w_n109_n294# CMOSP w=80 l=2
+  ad=400 pd=170 as=640 ps=176
M1023 vdd A3 G3_Not w_n160_n462# CMOSP w=40 l=2
+  ad=0 pd=0 as=320 ps=96
M1024 a_22_n205# G1_Not vdd w_9_n211# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1025 Inter_S2 B2 A2 w_n161_n369# CMOSP w=10 l=2
+  ad=60 pd=32 as=50 ps=30
M1026 a_248_n65# C1_Inter_NAND a_248_n26# w_235_n32# CMOSP w=40 l=2
+  ad=200 pd=90 as=320 ps=96
M1027 P0_Not A0 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1028 a_n148_n307# B2 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1029 Inter_S2 B2 a_n148_n363# Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=90 ps=56
M1030 a_88_n174# a_46_n176# gnd Gnd CMOSN w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1031 a_39_135# P0_Not vdd w_26_129# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1032 a_24_n104# G0_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1033 P3_Not A3 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1034 a_n148_n363# A2 vdd w_n161_n369# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1035 C1_Inter_01 a_173_n86# vdd w_160_n92# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1036 a_n148_n363# A2 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1037 gnd B1 P1_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1038 a_173_n86# C1_Inter_NOR vdd w_160_n92# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1039 a_46_n176# a_22_n244# vdd w_9_n211# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1040 a_22_n384# G2_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1041 C2_Inter_NOR P2_Not gnd Gnd CMOSN w=5 l=2
+  ad=40 pd=26 as=0 ps=0
M1042 a_n99_n99# A1 vdd w_n112_n105# CMOSP w=80 l=2
+  ad=640 pd=176 as=0 ps=0
M1043 gnd a_7_127# a_39_96# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1044 C3_Inter_NAND G3_Not a_88_n314# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1045 C1_Inter_NAND a_48_n36# vdd w_11_n71# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1046 gnd P2_Not a_22_n244# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1047 gnd P2_Not C3_Inter_NOR Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1048 vdd A0 G0_Not w_n162_127# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1049 a_n97_93# A0 vdd w_n110_87# CMOSP w=80 l=2
+  ad=640 pd=176 as=0 ps=0
M1050 C3_Inter_NAND a_46_n316# vdd w_9_n351# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1051 a_24_n65# G0_Not vdd w_11_n71# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1052 a_n149_18# A0 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1053 vdd C0_Inter_01 C0 w_31_49# CMOSP w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1054 B3 A3 Inter_S3 w_n160_n577# CMOSP w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1055 G2_Not B2 vdd w_n161_n254# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1056 a_48_n36# a_24_n104# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1057 B3 a_n147_n571# Inter_S3 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=0 ps=0
M1058 B1 A1 Inter_S1 w_n164_n180# CMOSP w=10 l=2
+  ad=60 pd=32 as=60 ps=32
M1059 B1 a_n151_n174# Inter_S1 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=30 ps=22
M1060 a_75_n109# P1_Not vdd w_69_n123# CMOSP w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1061 Inter_S0 B0 A0 w_n162_12# CMOSP w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1062 a_n95_n496# A3 vdd w_n108_n502# CMOSP w=80 l=2
+  ad=640 pd=176 as=0 ps=0
M1063 a_n149_74# B0 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1064 G2_Not A2 a_n148_n307# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1065 gnd B0 P0_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1066 a_73_n389# P3_Not vdd w_67_n403# CMOSP w=10 l=2
+  ad=80 pd=36 as=0 ps=0
M1067 gnd B3 P3_Not Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1068 a_248_n26# C1_Inter_01 vdd w_235_n32# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1069 a_n151_n118# B1 gnd Gnd CMOSN w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1070 C2_Inter_NAND G2_Not a_88_n174# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=0 ps=0
M1071 G1_Not B1 vdd w_n164_n65# CMOSP w=40 l=2
+  ad=320 pd=96 as=0 ps=0
M1072 C1 a_248_n65# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1073 a_39_96# P0_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1074 C2_Inter_NAND a_46_n176# vdd w_9_n211# CMOSP w=20 l=2
+  ad=160 pd=56 as=0 ps=0
M1075 a_n151_n174# A1 vdd w_n164_n180# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1076 a_22_n244# G1_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1077 a_n151_n174# A1 gnd Gnd CMOSN w=11 l=2
+  ad=90 pd=56 as=0 ps=0
M1078 P0_Not B0 a_n97_93# w_n110_87# CMOSP w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1079 C1_Inter_01 a_173_n86# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1080 gnd C1_Inter_NAND a_248_n65# Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=160 ps=56
M1081 a_48_n36# a_24_n104# vdd w_11_n71# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1082 gnd P1_Not C2_Inter_NOR Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1083 vdd A2 G2_Not w_n161_n254# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1084 C0 C0_Inter_01 a_44_16# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1085 vdd G1_Not C1_Inter_NAND w_11_n71# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1086 C0 G0_Not vdd w_31_49# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1087 vdd G3_Not C3_Inter_NAND w_9_n351# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1088 B0 a_n149_18# Inter_S0 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=0 ps=0
M1089 a_22_n384# P3_Not a_22_n345# w_9_n351# CMOSP w=40 l=2
+  ad=200 pd=90 as=320 ps=96
M1090 P3_Not B3 a_n95_n496# w_n108_n502# CMOSP w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1091 P1_Not B1 a_n99_n99# w_n112_n105# CMOSP w=80 l=2
+  ad=400 pd=170 as=0 ps=0
M1092 G0_Not A0 a_n149_74# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1093 a_90_n34# a_48_n36# gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1094 a_173_n86# Cin a_173_n125# Gnd CMOSN w=20 l=2
+  ad=120 pd=52 as=160 ps=56
M1095 C1_Inter_NOR P1_Not gnd Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1096 P2_Not A2 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1097 C1_Inter_NOR P0_Not a_75_n109# w_69_n123# CMOSP w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1098 a_n147_n515# B3 gnd Gnd CMOSN w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1099 a_n149_18# A0 vdd w_n162_12# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1100 a_73_n249# P2_Not vdd w_67_n263# CMOSP w=10 l=2
+  ad=0 pd=0 as=0 ps=0
M1101 Inter_S1 B1 A1 w_n164_n180# CMOSP w=10 l=2
+  ad=0 pd=0 as=50 ps=30
M1102 G1_Not A1 a_n151_n118# Gnd CMOSN w=40 l=2
+  ad=240 pd=92 as=0 ps=0
M1103 Inter_S1 B1 a_n151_n174# Gnd CMOSN w=5 l=2
+  ad=0 pd=0 as=0 ps=0
M1104 a_n147_n571# A3 vdd w_n160_n577# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1105 C3_Inter_NOR P2_Not a_73_n389# w_67_n403# CMOSP w=10 l=2
+  ad=50 pd=30 as=0 ps=0
M1106 a_46_n316# a_22_n384# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1107 a_n147_n571# A3 gnd Gnd CMOSN w=11 l=2
+  ad=0 pd=0 as=0 ps=0
M1108 vdd A1 G1_Not w_n164_n65# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1109 C0_Inter_01 a_39_96# gnd Gnd CMOSN w=11 l=2
+  ad=55 pd=32 as=0 ps=0
M1110 B2 A2 Inter_S2 w_n161_n369# CMOSP w=10 l=2
+  ad=60 pd=32 as=0 ps=0
M1111 B2 a_n148_n363# Inter_S2 Gnd CMOSN w=5 l=2
+  ad=30 pd=22 as=0 ps=0
M1112 vdd G2_Not C2_Inter_NAND w_9_n211# CMOSP w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1113 a_44_16# G0_Not gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1114 a_248_n65# C1_Inter_01 gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1115 a_n96_n288# A2 vdd w_n109_n294# CMOSP w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1116 G3_Not B3 vdd w_n160_n462# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1117 a_22_n345# G2_Not vdd w_9_n351# CMOSP w=40 l=2
+  ad=0 pd=0 as=0 ps=0
M1118 a_7_127# Cin vdd w_n6_144# CMOSP w=22 l=2
+  ad=110 pd=54 as=0 ps=0
M1119 a_22_n244# P2_Not a_22_n205# w_9_n211# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1120 a_39_96# a_7_127# a_39_135# w_26_129# CMOSP w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1121 a_173_n125# C1_Inter_NOR gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_67_n403# P2_Not 0.06fF
C1 gnd G3_Not 0.12fF
C2 vdd a_46_n316# 0.12fF
C3 w_n161_n369# A2 0.26fF
C4 P0_Not P1_Not 0.03fF
C5 P3_Not a_22_n384# 0.20fF
C6 w_n112_n105# P1_Not 0.02fF
C7 w_n109_n294# vdd 0.02fF
C8 B1 G1_Not 0.29fF
C9 P2_Not A2 0.03fF
C10 gnd A3 0.26fF
C11 P3_Not B3 0.19fF
C12 gnd a_173_n86# 0.02fF
C13 a_22_n244# G2_Not 0.01fF
C14 G1_Not a_24_n65# 0.01fF
C15 w_9_n351# C3_Inter_NAND 0.15fF
C16 a_22_n345# G3_Not 0.01fF
C17 w_n160_n462# vdd 0.09fF
C18 gnd C2_Inter_NAND 0.06fF
C19 P2_Not P3_Not 0.03fF
C20 a_248_n65# C1 0.04fF
C21 gnd B2 0.06fF
C22 w_9_n351# G3_Not 0.09fF
C23 w_160_n92# a_173_n86# 0.22fF
C24 w_9_n211# P2_Not 0.06fF
C25 P2_Not a_22_n384# 0.02fF
C26 B0 G0_Not 0.49fF
C27 P0_Not a_7_127# 0.25fF
C28 w_n162_127# vdd 0.09fF
C29 a_7_127# Cin 0.04fF
C30 w_n164_n65# vdd 0.09fF
C31 w_n6_144# Cin 0.06fF
C32 w_9_n211# a_46_n176# 0.10fF
C33 gnd a_n149_18# 0.07fF
C34 w_n162_12# a_n149_18# 0.02fF
C35 B3 Inter_S3 0.35fF
C36 vdd G1_Not 0.22fF
C37 gnd B1 0.06fF
C38 w_n161_n254# vdd 0.09fF
C39 w_n160_n577# B3 0.40fF
C40 vdd G3_Not 0.19fF
C41 C1_Inter_NAND G1_Not 0.03fF
C42 G0_Not a_24_n104# 0.02fF
C43 w_11_n71# G1_Not 0.09fF
C44 w_n164_n180# A1 0.26fF
C45 gnd C1_Inter_NOR 0.47fF
C46 w_235_n32# C1 0.02fF
C47 C1_Inter_01 a_248_n65# 0.03fF
C48 w_n160_n577# Inter_S3 0.03fF
C49 G1_Not a_n99_n99# 0.01fF
C50 A1 P1_Not 0.03fF
C51 G2_Not A2 0.27fF
C52 G1_Not a_48_n36# 0.24fF
C53 w_9_n211# P1_Not 0.17fF
C54 P1_Not a_24_n104# 0.20fF
C55 w_160_n92# C1_Inter_NOR 0.06fF
C56 w_n108_n502# P3_Not 0.02fF
C57 w_n161_n369# Inter_S2 0.03fF
C58 G2_Not P3_Not 0.20fF
C59 gnd C2_Inter_NOR 0.37fF
C60 A0 P0_Not 0.03fF
C61 w_n110_87# A0 0.06fF
C62 A2 a_n148_n363# 0.16fF
C63 G1_Not a_22_n244# 0.02fF
C64 P1_Not P2_Not 0.03fF
C65 B3 a_n147_n571# 0.17fF
C66 vdd gnd 0.85fF
C67 w_31_49# G0_Not 0.06fF
C68 w_n162_12# vdd 0.02fF
C69 vdd a_73_n249# 0.01fF
C70 G0_Not C0_Inter_01 0.32fF
C71 w_9_n211# G2_Not 0.09fF
C72 w_31_49# C0_Inter_01 0.06fF
C73 G2_Not a_22_n384# 0.02fF
C74 gnd C1_Inter_NAND 0.15fF
C75 w_235_n32# C1_Inter_01 0.06fF
C76 P1_Not a_46_n176# 0.07fF
C77 w_67_n263# P2_Not 0.06fF
C78 w_n108_n502# B3 0.06fF
C79 w_n109_n294# A2 0.06fF
C80 P0_Not G1_Not 0.05fF
C81 a_n147_n571# Inter_S3 0.05fF
C82 w_n112_n105# G1_Not 0.01fF
C83 gnd C3_Inter_NOR 0.37fF
C84 G0_Not P1_Not 0.10fF
C85 w_160_n92# vdd 0.09fF
C86 gnd a_48_n36# 0.95fF
C87 vdd C1_Inter_NOR 0.13fF
C88 P2_Not G2_Not 0.15fF
C89 vdd a_73_n389# 0.01fF
C90 w_n160_n577# a_n147_n571# 0.02fF
C91 w_69_n123# P1_Not 0.06fF
C92 w_9_n351# vdd 0.23fF
C93 Cin a_173_n86# 0.02fF
C94 G2_Not a_46_n176# 0.24fF
C95 a_22_n384# a_46_n316# 0.05fF
C96 w_n161_n369# a_n148_n363# 0.02fF
C97 A1 a_n151_n174# 0.16fF
C98 w_n164_n180# Inter_S1 0.03fF
C99 w_67_n263# P1_Not 0.06fF
C100 vdd C2_Inter_NOR 0.13fF
C101 B0 A0 1.61fF
C102 P2_Not a_46_n316# 0.07fF
C103 w_n162_127# B0 0.06fF
C104 P0_Not gnd 0.17fF
C105 w_26_129# vdd 0.11fF
C106 w_n109_n294# P2_Not 0.02fF
C107 gnd Cin 0.06fF
C108 w_26_129# a_39_96# 0.09fF
C109 w_n160_n462# B3 0.06fF
C110 w_n161_n254# A2 0.06fF
C111 vdd C1_Inter_NAND 0.06fF
C112 P1_Not G2_Not 0.09fF
C113 w_11_n71# vdd 0.23fF
C114 w_n164_n65# A1 0.06fF
C115 w_11_n71# C1_Inter_NAND 0.15fF
C116 w_n112_n105# B1 0.06fF
C117 vdd C3_Inter_NOR 0.13fF
C118 P0_Not a_24_n65# 0.01fF
C119 P3_Not G3_Not 0.00fF
C120 vdd a_48_n36# 0.12fF
C121 P0_Not C1_Inter_NOR 0.26fF
C122 w_160_n92# Cin 0.06fF
C123 A1 G1_Not 0.27fF
C124 Cin C1_Inter_NOR 0.31fF
C125 a_n148_n363# Inter_S2 0.05fF
C126 C1_Inter_NAND a_48_n36# 0.09fF
C127 P3_Not A3 0.03fF
C128 w_9_n211# G1_Not 0.06fF
C129 w_11_n71# a_48_n36# 0.10fF
C130 G1_Not a_24_n104# 0.01fF
C131 a_22_n384# G3_Not 0.01fF
C132 B2 A2 1.61fF
C133 w_n164_n180# a_n151_n174# 0.02fF
C134 G3_Not B3 0.26fF
C135 gnd A2 0.26fF
C136 G1_Not P2_Not 0.32fF
C137 B3 A3 1.61fF
C138 w_9_n211# C2_Inter_NAND 0.15fF
C139 P2_Not G3_Not 0.15fF
C140 P0_Not vdd 0.16fF
C141 B0 gnd 0.06fF
C142 A0 G0_Not 0.50fF
C143 w_n162_12# B0 0.40fF
C144 w_n6_144# a_7_127# 0.02fF
C145 w_n162_127# G0_Not 0.15fF
C146 w_26_129# P0_Not 0.06fF
C147 w_n110_87# vdd 0.02fF
C148 vdd Cin 0.06fF
C149 P0_Not a_39_96# 0.03fF
C150 B0 a_n149_18# 0.17fF
C151 w_n112_n105# vdd 0.02fF
C152 gnd P3_Not 0.38fF
C153 gnd Inter_S0 0.12fF
C154 w_31_49# C0 0.15fF
C155 w_n162_12# Inter_S0 0.03fF
C156 P1_Not a_22_n205# 0.01fF
C157 Cin C1_Inter_NAND 0.05fF
C158 a_n149_18# Inter_S0 0.05fF
C159 C0_Inter_01 C0 0.02fF
C160 w_11_n71# P0_Not 0.17fF
C161 a_n151_n174# Inter_S1 0.05fF
C162 gnd A1 0.26fF
C163 G0_Not G1_Not 0.06fF
C164 w_n160_n577# A3 0.26fF
C165 w_n161_n369# B2 0.40fF
C166 P0_Not a_48_n36# 0.07fF
C167 B1 A1 1.61fF
C168 P2_Not B2 0.19fF
C169 C2_Inter_NAND a_46_n176# 0.09fF
C170 gnd B3 0.06fF
C171 C1_Inter_NAND a_248_n65# 0.19fF
C172 vdd a_75_n109# 0.01fF
C173 a_22_n205# G2_Not 0.01fF
C174 G1_Not P1_Not 0.06fF
C175 w_9_n351# P3_Not 0.06fF
C176 w_67_n403# vdd 0.19fF
C177 gnd P2_Not 0.52fF
C178 gnd Inter_S3 0.12fF
C179 w_9_n351# a_22_n384# 0.09fF
C180 gnd a_46_n176# 0.95fF
C181 P2_Not a_22_n345# 0.01fF
C182 w_67_n403# C3_Inter_NOR 0.06fF
C183 w_n110_87# P0_Not 0.02fF
C184 G1_Not G2_Not 0.06fF
C185 A3 a_n147_n571# 0.16fF
C186 P0_Not Cin 0.05fF
C187 G0_Not gnd 0.02fF
C188 w_235_n32# vdd 0.12fF
C189 vdd P3_Not 0.00fF
C190 w_n161_n254# G2_Not 0.15fF
C191 gnd C0_Inter_01 0.06fF
C192 B2 Inter_S2 0.35fF
C193 G2_Not G3_Not 0.05fF
C194 w_235_n32# C1_Inter_NAND 0.06fF
C195 w_9_n351# P2_Not 0.17fF
C196 w_n108_n502# A3 0.06fF
C197 w_9_n211# vdd 0.23fF
C198 gnd Inter_S2 0.12fF
C199 gnd P1_Not 0.47fF
C200 w_n164_n180# B1 0.40fF
C201 C3_Inter_NAND a_46_n316# 0.09fF
C202 P3_Not C3_Inter_NOR 0.02fF
C203 C2_Inter_NAND G2_Not 0.03fF
C204 w_11_n71# a_24_n104# 0.09fF
C205 w_n161_n369# vdd 0.02fF
C206 B1 P1_Not 0.19fF
C207 w_69_n123# C1_Inter_NOR 0.06fF
C208 G2_Not B2 0.26fF
C209 P2_Not C2_Inter_NOR 0.02fF
C210 gnd a_n147_n571# 0.07fF
C211 C1_Inter_01 a_173_n86# 0.05fF
C212 G3_Not a_46_n316# 0.24fF
C213 gnd Inter_S1 0.12fF
C214 vdd P2_Not 0.08fF
C215 P1_Not C1_Inter_NOR 0.02fF
C216 a_24_n104# a_48_n36# 0.05fF
C217 vdd a_46_n176# 0.12fF
C218 gnd G2_Not 0.14fF
C219 B1 Inter_S1 0.35fF
C220 w_n160_n577# vdd 0.02fF
C221 w_n160_n462# G3_Not 0.15fF
C222 B0 P0_Not 0.19fF
C223 w_n162_127# A0 0.06fF
C224 w_n110_87# B0 0.06fF
C225 P2_Not C3_Inter_NOR 0.26fF
C226 B2 a_n148_n363# 0.17fF
C227 vdd G0_Not 0.10fF
C228 a_7_127# gnd 0.02fF
C229 w_31_49# vdd 0.07fF
C230 w_9_n211# a_22_n244# 0.09fF
C231 vdd C0_Inter_01 0.07fF
C232 w_26_129# C0_Inter_01 0.05fF
C233 w_n160_n462# A3 0.06fF
C234 a_39_96# C0_Inter_01 0.04fF
C235 gnd C1_Inter_01 0.42fF
C236 w_11_n71# G0_Not 0.06fF
C237 w_69_n123# vdd 0.19fF
C238 w_n164_n180# vdd 0.02fF
C239 gnd a_n148_n363# 0.07fF
C240 w_n109_n294# B2 0.06fF
C241 w_n112_n105# A1 0.06fF
C242 w_n164_n65# G1_Not 0.15fF
C243 P1_Not C2_Inter_NOR 0.26fF
C244 w_9_n351# G2_Not 0.06fF
C245 gnd a_46_n316# 0.95fF
C246 vdd P1_Not 0.13fF
C247 P0_Not a_24_n104# 0.02fF
C248 C3_Inter_NAND G3_Not 0.03fF
C249 w_235_n32# a_248_n65# 0.09fF
C250 P2_Not a_22_n244# 0.20fF
C251 w_67_n263# C2_Inter_NOR 0.06fF
C252 w_160_n92# C1_Inter_01 0.02fF
C253 w_11_n71# P1_Not 0.06fF
C254 w_67_n263# vdd 0.19fF
C255 gnd a_n151_n174# 0.07fF
C256 a_22_n244# a_46_n176# 0.05fF
C257 w_67_n403# P3_Not 0.06fF
C258 B1 a_n151_n174# 0.17fF
C259 G3_Not A3 0.27fF
C260 w_n108_n502# vdd 0.02fF
C261 vdd G2_Not 0.15fF
C262 w_9_n351# a_46_n316# 0.10fF
C263 P0_Not G0_Not 0.68fF
C264 A0 gnd 0.26fF
C265 w_n6_144# vdd 0.02fF
C266 w_26_129# a_7_127# 0.07fF
C267 w_n162_12# A0 0.26fF
C268 a_7_127# a_39_96# 0.19fF
C269 B0 Inter_S0 0.35fF
C270 A0 a_n149_18# 0.16fF
C271 gnd C3_Inter_NAND 0.06fF
C272 w_n161_n254# B2 0.06fF
C273 Cin C0_Inter_01 0.58fF
C274 P1_Not a_22_n244# 0.02fF
C275 w_69_n123# P0_Not 0.06fF
C276 C1_Inter_01 C1_Inter_NAND 0.22fF
C277 gnd G1_Not 0.14fF
C278 w_n164_n65# B1 0.06fF
C279 Inter_S3 Gnd 0.08fF
C280 a_n147_n571# Gnd 0.61fF
C281 A3 Gnd 0.11fF
C282 B3 Gnd 0.42fF
C283 C3_Inter_NOR Gnd 0.16fF
C284 a_46_n316# Gnd 0.34fF
C285 G3_Not Gnd 0.12fF
C286 a_22_n384# Gnd 0.17fF
C287 Inter_S2 Gnd 0.08fF
C288 a_n148_n363# Gnd 0.61fF
C289 C3_Inter_NAND Gnd 0.63fF
C290 P3_Not Gnd 0.03fF
C291 C2_Inter_NOR Gnd 0.15fF
C292 A2 Gnd 0.11fF
C293 B2 Gnd 0.42fF
C294 a_46_n176# Gnd 0.34fF
C295 G2_Not Gnd 0.12fF
C296 a_22_n244# Gnd 0.17fF
C297 C2_Inter_NAND Gnd 0.63fF
C298 P2_Not Gnd 0.04fF
C299 Inter_S1 Gnd 0.08fF
C300 a_n151_n174# Gnd 0.61fF
C301 a_173_n86# Gnd 0.43fF
C302 C1_Inter_NOR Gnd 0.10fF
C303 C1 Gnd 0.02fF
C304 a_48_n36# Gnd 0.16fF
C305 a_248_n65# Gnd 0.17fF
C306 a_24_n104# Gnd 0.17fF
C307 P1_Not Gnd 0.05fF
C308 G1_Not Gnd 0.12fF
C309 A1 Gnd 0.11fF
C310 B1 Gnd 0.42fF
C311 C1_Inter_NAND Gnd 0.59fF
C312 C1_Inter_01 Gnd 0.02fF
C313 C0 Gnd 0.09fF
C314 Inter_S0 Gnd 0.08fF
C315 a_n149_18# Gnd 0.61fF
C316 C0_Inter_01 Gnd 0.11fF
C317 a_39_96# Gnd 0.04fF
C318 Cin Gnd 0.04fF
C319 gnd Gnd 10.89fF
C320 G0_Not Gnd 3.97fF
C321 vdd Gnd 7.64fF
C322 a_7_127# Gnd 0.29fF
C323 P0_Not Gnd 0.06fF
C324 A0 Gnd 0.99fF
C325 B0 Gnd 1.62fF
C326 w_n160_n577# Gnd 1.44fF
C327 w_n108_n502# Gnd 3.14fF
C328 w_n160_n462# Gnd 1.31fF
C329 w_67_n403# Gnd 0.82fF
C330 w_n161_n369# Gnd 1.44fF
C331 w_9_n351# Gnd 0.37fF
C332 w_67_n263# Gnd 0.82fF
C333 w_n109_n294# Gnd 3.14fF
C334 w_n161_n254# Gnd 1.31fF
C335 w_9_n211# Gnd 0.08fF
C336 w_n164_n180# Gnd 1.44fF
C337 w_160_n92# Gnd 1.69fF
C338 w_69_n123# Gnd 0.82fF
C339 w_11_n71# Gnd 0.37fF
C340 w_n112_n105# Gnd 3.14fF
C341 w_n164_n65# Gnd 1.31fF
C342 w_235_n32# Gnd 2.34fF
C343 w_n162_12# Gnd 1.44fF
C344 w_31_49# Gnd 1.09fF
C345 w_26_129# Gnd 2.34fF
C346 w_n6_144# Gnd 0.82fF
C347 w_n110_87# Gnd 0.90fF
C348 w_n162_127# Gnd 0.37fF

VA3 A3 gnd 0
VA2 A2 gnd 0
VA1 A1 gnd 0
VA0 A0 gnd 0

VB3 B3 gnd 0
VB2 B2 gnd 'SUPPLY'
VB1 B1 gnd 'SUPPLY'
VB0 B0 gnd pulse 0 'SUPPLY' 1n 0 0 2.5ns 5ns

VCin Cin gnd 'SUPPLY'
VCin_Not Cin_Not gnd 0

.tran 10p 10n

.control

run
set hcopypscolor = 1
set color0 = white
set color1 = black
set curplottitle = "Siddarth Gottumukkula 2023102040"
set xbrushwidth = 3

let in_A3 = 'A3 + 26'
let in_A2 = 'A2 + 24'
let in_A1 = 'A1 + 22'
let in_A0 = 'A0 + 20'

let in_B3 = 'B3 + 18'
let in_B2 = 'B2 + 16'
let in_B1 = 'B1 + 14'
let in_B0 = 'B0 + 12'

let in_Cin = 'Cin + 10'

* let out_Cout = 'Cout + 8'
* let out_S3 = 'S3 + 6'
* let out_C2 = 'C2 + 4'
let out_C1 = 'C1 + 2'
let out_C0 = 'C0'

* plot in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0 in_Cin out_Cout out_S3 out_S2 out_S1 out_S0
plot in_A3 in_A2 in_A1 in_A0 in_B3 in_B2 in_B1 in_B0
plot G0_Not+14 G1_Not+12 G2_Not+10 G3_Not+8 P0_Not+6 P1_Not+4 P2_Not+2 P3_Not out_C1 out_C0
* plot Inter_S0 Inter_S1+2 Inter_S2+4 Inter_S3+6
* plot P0_Not P1_Not+2 P2_Not+4 P3_Not+6
* plot G0_Not G1_Not+2 G2_Not+4 G3_Not+6
* plot C1_inter_NAND + 4 C1_inter_01 + 2 Intermediate

.endc

.end